US09034866B2
2-Carbamoyl-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid (0.05 g) was reacted with 4-(2-aminoethyl)morpholine similar to as described in Example 2 to afford 13.3 mg of 9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-N3-(2-morpholinoethyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide following reverse phase hplc purification. MS (Q1) 486 (M)+. 1H NMR (400 MHz, DMSO) δ 11.06 (s, 1H), 8.61 (d, J=8.4 Hz, 1H), 8.32 (s, 1H), 7.86 (s, 1H), 7.02 (d, J=10.5 Hz, 1H), 5.47 (s, 1H), 5.08-4.77 (m, 2H), 4.61-4.48 (m, 2H), 3.70-3.51 (m, 3H), 3.51-3.35 (m, 1H), 2.49-2.30 (m, 3H), 1.49 (s, 6H).

reactant | 2-Carbamoyl-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid | 0.05 g | C(N)(=O)C=1N=C2N(CCOC3=C2C=C(C(=C3)F)C#CC(C)(C)O)C1C(=O)O | C18H16FN3O5
reactant | 4-(2-aminoethyl)morpholine | NCCN1CCOCC1 | C6H14N2O
product | 9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-N3-(2-morpholinoethyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide | 13.3 mg | FC1=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(=O)NCCN3CCOCC3)C=C1C#CC(C)(C)O | C24H28FN5O5
